** sch_path: /home/sriram/MCD_VS/_runs/RUN_2026-06-30_16-33-54/parameters/ac_params/run_0423/ota-2stage-ac.sch
**.subckt ota-2stage-ac
Vdd v_dd GND 1.45
Vss v_ss GND 0
C1 v_out v_ss 1e-12 m=1
Vin v_in v_ss dc 0.9 ac 1
I0 v_dd net1 1.9999999999999998e-05
.save v(v_in)
.save v(v_out)
x1 v_dd net1 v_out v_out v_in v_ss ota-2stage
**** begin user architecture code


.include /home/sriram/MCD_VS/cace/netlist/schematic/ota-2stage.spice
.temp -40
.param mc_ok = 1
.option SEED=12345

.control
set num_threads=1

op
let dcgain=v(v_out)/v(v_in)

ac dec 101 10 100MEG
meas ac acgain MAX vmag(v_out) FROM=10 TO=100
let f3db = acgain/sqrt(2)
meas ac fbw WHEN vmag(v_out)=f3db FALL=1

echo $&op1.dcgain $&fbw > /home/sriram/MCD_VS/_runs/RUN_2026-06-30_16-33-54/parameters/ac_params/run_0423/ota-2stage-ac_423.data
.endc



.lib cornerMOSlv.lib mos_ss
.lib cornerMOShv.lib mos_ss
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ

**** end user architecture code
**.ends
.GLOBAL GND
.end
